US06150373
A mixture of 200 mg (0.56 mmol) of 3-(2,6-difluorophenyl)-7-methanesulfonyl-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one and 400 mg (1.9 mmol) of 4-[1288 2-(diethylamino)ethoxy]aniline was heated at 180° C. for 30 minutes and then cooled. The residue was subjected to column chromatography on silica gel using dichloromethane/methanol/acetic acid/water (240:24:3:2) for the elution. Product-containing fractions were combined and evaporated and the residue was evaporated with toluene. The residue was then dissolved in 40 ml of dichloromethane, washed with 40 ml of saturated aqueous sodium bicarbonate solution, dried over magnesium sulfate, filtered and evaporated to give 30 mg (11%) of 7-[4-[2-(diethylamino)ethoxy]anilino]-3-(2,6-difluorophenyl)-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one as an orange colored solid. [Mass spectrum (ESI) MH+ =483].

reactant | 3-(2,6-difluorophenyl)-7-methanesulfonyl-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one | 0.56 mmol, 200 mg | FC1=C(C(=CC=C1)F)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C)=O | C14H12F2N4O3S
reactant | dichloromethane methanol acetic acid water | ClCCl.CO.C(C)(=O)O.O
product | 7-[4-[2-(diethylamino)ethoxy]anilino]-3-(2,6-difluorophenyl)-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one | 30 mg, 11% | C(C)N(CCOC1=CC=C(NC2=NC=C3C(=N2)N(C(N(C3)C3=C(C=CC=C3F)F)=O)C)C=C1)CC | C25H28F2N6O2
